US04699905
α-{6(R)-[1(S)-Ethoxycarbonyl-3-phenylpropylamino]-3(R)-isopropyl-5-oxoperhydro-1,4-thiazepin-4-yl}acetic acid (Compound No. 173)
0.32 g of t-butyl α-{6(R)-[1(S)-ethoxycarbonyl-3-phenylpropylamino]-3(R)-isopropyl-5-oxoperhydro-1,4-thiazepin-4-yl}acetate (isomer B) synthesized as described in Example 27 was subjected to de-t-butylation with trifluoroacetic acid in the same manner as described in Example 3, to give 260 mg of the title compound as an amorphous solid.

reactant | t-butyl α-{6(R)-[1(S)-ethoxycarbonyl-3-phenylpropylamino]-3(R)-isopropyl-5-oxoperhydro-1,4-thiazepin-4-yl}acetate | 0.32 g | C(C)OC(=O)[C@H](CCC1=CC=CC=C1)N[C@@H]1C(N([C@@H](CSC1)C(C)C)CC(=O)OC(C)(C)C)=O | C26H40N2O5S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | α-{6(R)-[1(S)-Ethoxycarbonyl-3-phenylpropylamino]-3(R)-isopropyl-5-oxoperhydro-1,4-thiazepin-4-yl}acetic acid | 260 mg | C(C)OC(=O)[C@H](CCC1=CC=CC=C1)N[C@@H]1C(N([C@@H](CSC1)C(C)C)CC(=O)O)=O | C22H32N2O5S
